US07265121B2
1-D-Valinyl-4-(1-methylpiperidin-4-yl)piperidine Dihydrochloride
1-(Boc-D-Valinyl)-4-(1-methylpiperidin-4-yl)piperidine (23.3 g, 61.1 mmol) is dissolved in anhydrous methanol (700 mL), cooled to 0° C. and treated with HCl (gas) until HPLC indicates consumption of starting material is complete. The solvent is removed in vacuo to give 20.8 g (96%) of the title compound as an off-white foam.

reactant | 1-(Boc-D-Valinyl)-4-(1-methylpiperidin-4-yl)piperidine | 61.1 mmol, 23.3 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C | C21H39N3O3
reactant | HCl | Cl | ClH
solvent | methanol | 700 mL | CO | CH4O
product | 1-D-Valinyl-4-(1-methylpiperidin-4-yl)piperidine Dihydrochloride | 20.8 g, 96% | Cl.Cl.N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C | InChI=1S/C16H31N3O.2ClH/c1-12(2)15(17)16(20)19-10-6-14(7-11-19)13-4-8-18(3)9-5-13;;/h12-15H,4-11,17H2,1-3H3;2*1H/t15-;;/m1../s1
